US09301951B2
Intermediate 19b: N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(dipropylamino)phenyl)-isonicotinamide
Into a 50-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(5-(dipropylamino)-2-nitrophenyl)isonicotinamide (400 mg, 0.80 mmol, −1.00 equiv) in methanol (20 mL). The solution was treated with Pd/C (400 mg, 10%), and stirred under an atmosphere of hydrogen for 4 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. The product was obtained as 300 mg (80%) of a yellow to green oil.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(5-(dipropylamino)-2-nitrophenyl)isonicotinamide | 0.80 mmol, 400 mg, −1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCC)CCC)[N+](=O)[O-])=O)C=CC1)(F)F | C26H27F3N4O3
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(dipropylamino)phenyl)-isonicotinamide | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCC)CCC)N)=O)C=CC1)(F)F | C26H29F3N4O
